US04906628
8-(4-Oxo-1,4-dihydropyridin-1-yl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one
A stirred mixture of 8-amino-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one hydrochloride (1.5 g) and 4H-pyran-4-one (0.84 g) in water (40 ml) was heated under reflux for 2 hours in a nitrogen atmosphere. The resultant solid was washed with dilute hydrochloric acid to give a crude product, 0.5 g. Purification by column chromatography (silica gel, 9:1 chloroform:methanol) gave the title compound 0.18 g, m.p. >300° C.

reactant | 8-amino-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one hydrochloride | 1.5 g | Cl.NC=1C=CC2=C(CCC3CC(NN=C23)=O)C1
reactant | 4H-pyran-4-one | 0.84 g | O1C=CC(C=C1)=O | C5H4O2
solvent | water | 40 ml | O | H2O
product | 8-(4-Oxo-1,4-dihydropyridin-1-yl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 0.18 g | O=C1C=CN(C=C1)C=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C17H15N3O2
